US06255315B1
Step A: Trifluoromethanesulfonic acid 1,4-dioxa-spiro[4.5]dec-7-en-8yl ester
To a solution of diisopropylamine (7.6 mL, 54.3 mmol) in 200 mL THF cooled to −78° C. was added n-butyllithium (21.8 mL 2.5 M in hexane, 54.3 mmol) under argon.The solution was stirred for 10 minutes, then a solution of 1,4-cyclohexanedione monoethylene ketal (8.5 g, 54.3 mmol) in 75 mL THF was added slowly. The solution was stirred for 10 min, then a solution of N-phenyltrifluoromethane sulfonamide (19.5 g, 54.3 mmol) in 150 mL THF was added slowly. The reaction solution was warmed to r.t., poured onto saturated sodium bicarbonate, and extracted with ethyl acetate. The combined organic layers were washed with saturated sodium chloride, dried with magnesium sulfate, and concentrated in vacuo. The crude material was passed through silica (3% methanol, dichloromethane) to give the product as an oil.

reactant | diisopropylamine | 54.3 mmol, 7.6 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 54.3 mmol, 2.5 M, 21.8 mL | C(CCC)[Li]
reactant | 1,4-cyclohexanedione monoethylene ketal | 54.3 mmol, 8.5 g | C1COC2(CCC(CC2)=O)O1 | C8H12O3
reactant | N-phenyltrifluoromethane sulfonamide | 54.3 mmol, 19.5 g | C1(=CC=CC=C1)NS(=O)(=O)C(F)(F)F | C7H6F3NO2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | Trifluoromethanesulfonic acid 1,4-dioxa-spiro[4.5]dec-7-en-8yl ester | O1CCOC12CC=C(CC2)OS(=O)(=O)C(F)(F)F | C9H11F3O5S
